US08669254B2
5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridazine-3-carboxylic acid
To a solution of 0.865 g 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridazine-3-carboxylic acid methyl ester in 9.0 ml tetrahydrofurane was added 3.2 ml of a 1M of lithium hydroxide in water was added and the mixture was stirred at ambient temperature for 3 h. The reaction mixture was acidified with 1 M hydrochloric acid. The solid was collected by filtration washed with water and dried under high vacuum to yield 0.805 g of the title compound as white solid, MS (EI): 331.1 (M−H).

reactant | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridazine-3-carboxylic acid methyl ester | 0.865 g | COC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)Cl)OCC(F)(F)F | C14H10ClF3N2O3
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofurane | 9.0 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridazine-3-carboxylic acid | 0.805 g | ClC1=CC=C(C=C1)C=1C=C(N=NC1OCC(F)(F)F)C(=O)O | C13H8ClF3N2O3
